US06071935
B. (6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester
(6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-acetic acid (7.00 g, 36.1 mmol) was dissolved in anhydrous toluene (200 ml) under an atmosphere of dry N2. To this solution was added triethylamine (6.10 ml, 43.6 mmol) and diphenylphosphoryl azide (9.30 ml, 42.1 mmol). The reaction was stirred for two hours at ambient temperature after which time benzyl alcohol (4.50 ml, 43.5 mmol) was added. The reaction was subsequently heated to 100° C. and stirred at this temperature for 3.5 hours. The reaction temperature was then cooled to 70° C. and stirred at this temperature for 18 hours. The reaction was then partitioned between 0.1 N NaOH and ethyl ether. The ethyl ether layer was washed with brine, dried over MgSO4, filtered and concentrated under vacuum to give a brown oil. The oil was chromatographed on silica gel using a gradient starting from 8% ethyl acetate in hexanes to 12% ethyl acetate in hexanes to give 7.81 g of the titled compound as an oil: C.I. m/z 300.3 [M+1]; 1H NMR (CDCl3)δ 7.28-7.35 (m, 5H), 5.09 (s, 2H), 4.72 (s, 2H), 3.29 (m, 2H), 2.66 (m, 1H), 2.43 (m, 1H), 2.32 (m, 1H), 1.98-2.06 (m, 2H), 1.57 (m, 1H), 1.23 (s, 3H), 1.17 (d, J=10.1, 1H), 0.72 (s, 3H).

reactant | (6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-acetic acid | 36.1 mmol, 7.00 g | CC1(C2CC(C(C1C2)=C)CCC(=O)O)C | C13H20O2
reactant | triethylamine | 43.6 mmol, 6.10 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 42.1 mmol, 9.30 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 43.5 mmol, 4.50 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (6,6-Dimethyl-2-methylene-bicyclo[3.1.1]hept-3-ylmethyl)-carbamic acid benzyl ester | 7.81 g | C(C1=CC=CC=C1)OC(NCC1C(C2C(C(C1)C2)(C)C)=C)=O | C19H25NO2
